US08748429B2
(4R,7S,8S)-8-amino-7-(2,3-difluorophenyl)-2-(trifluoromethyl)-5,6,7,8-tetrahydro-4H-cyclohepta[d]thiazol-4-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate
(4R,7S,8S)-8-(tert-butoxycarbonylamino)-7-(2,3-difluorophenyl)-2-(trifluoromethyl)-5,6,7,8-tetrahydro-4H-cyclohepta[d]thiazol-4-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate (3.5 mg, 4.94 μmol) in methylene chloride (2 mL) was treated with trifluoroacetic acid (0.5 mL, 6.49 mmol) at rt. The reaction was stirred for 2 h. The solvent was removed under vacuum and the crude product was partitioned between sodium bicarbonate(sat.) and ethyl acetate. The organic layer was separated, dried (sodium sulfate), filtered and concentrated in vacuo. Flash chromatography, eluting with methanol in methylene chloride from 0 to 10% gave the desired product (2.7 mg, 90%) as a white solid: LCMS (M+Na=631.04).

reactant | (4R,7S,8S)-8-(tert-butoxycarbonylamino)-7-(2,3-difluorophenyl)-2-(trifluoromethyl)-5,6,7,8-tetrahydro-4H-cyclohepta[d]thiazol-4-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate | 4.94 μmol, 3.5 mg | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)O[C@@H]1CC[C@H]([C@@H](C2=C1N=C(S2)C(F)(F)F)NC(=O)OC(C)(C)C)C2=C(C(=CC=C2)F)F | C32H33F5N6O5S
reactant | trifluoroacetic acid | 6.49 mmol, 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | (4R,7S,8S)-8-amino-7-(2,3-difluorophenyl)-2-(trifluoromethyl)-5,6,7,8-tetrahydro-4H-cyclohepta[d]thiazol-4-yl 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate | 2.7 mg, 90% | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)O[C@@H]1CC[C@H]([C@@H](C2=C1N=C(S2)C(F)(F)F)N)C2=C(C(=CC=C2)F)F | C27H25F5N6O3S
